US07345068B2
A solution of mesyl chloride (172 mg, 1.50 mmol) in methylene chloride (1 ml) was added to a solution of 3-[5-bis[2-(hydroxy)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester (268 mg, 0.50 mmol) in methylene chloride (9 ml) and the mixture was stirred at room temperature for 3 hrs. To the mixture was added water and the mixture was extracted with methylene chloride. The extract was washed with water and dried. The solvent was distilled off under reduced pressure. To the residue were added methanol (10 ml) and lithium chloride (638 mg, 15 mmol) and the mixture was stirred at room temperature for 1 hr. and heated under reflux for 5 hrs. After the mixture was cooled to room temperature, silica gel (3 g) was added thereto and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=5) to give 3-[5-bis[2-(chloro)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester (207 mg, 72%) as a pale yellow oil.

reactant | mesyl chloride | 1.50 mmol, 172 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 3-[5-bis[2-(hydroxy)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester | 0.50 mmol, 268 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)C1=CC2=CC=CC(=C2C=C1)N(CCO)CCO)=O | C27H29F3N2O5
reactant | water | O | H2O
reactant | lithium chloride | 15 mmol, 638 mg | [Cl-].[Li+]
reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 3-[5-bis[2-(chloro)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester | 207 mg, 72% | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)C1=CC2=CC=CC(=C2C=C1)N(CCCl)CCCl)=O | C27H27Cl2F3N2O3
